US09079985B2
4-Bromo-6-tert-butyl-2-(2,2-dimethylpropyl)-5-methoxy-1-indanone
To a mixture of 42.4 g (0.146 mol) of 6-tert-butyl-2-(2,2-dimethylpropyl)-5-methoxy-1-indanone, 58.0 g (0.426 mol) of sodium acetate, trihydrate, 0.93 g of Et4NI, 130 ml of dichloromethane, and 250 ml of water 23.5 g (0.147 mol) of bromine was added dropwise by vigorous stirring for 5 min at 5° C. The resulting mixture was stirred for additional 1 h at this temperature. Further on, this mixture was washed by aqueous Na2SO3 to remove an excess of bromine, and then 500 ml of dichloromethane was added. The organic layer was separated, and the aqueous layer was extracted with 2×250 ml of dichloromethane. The combined organic extract was dried over K2CO3 and then evaporated to dryness to give 54.8 g of yellowish oil which crystallizes on storage at room temperature. This product was further used without an additional purification.

reactant | 6-tert-butyl-2-(2,2-dimethylpropyl)-5-methoxy-1-indanone | 0.146 mol, 42.4 g | C(C)(C)(C)C1=C(C=C2CC(C(C2=C1)=O)CC(C)(C)C)OC | C19H28O2
reactant | sodium acetate, trihydrate | 0.426 mol, 58.0 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | water | 0.147 mol, 250 ml, 23.5 g | O | H2O
reactant | bromine | BrBr | Br2
catalyst | Et4NI | 0.93 g | [N+](CC)(CC)(CC)CC.[I-]
solvent | dichloromethane | 130 ml | ClCCl | CH2Cl2
product | 4-Bromo-6-tert-butyl-2-(2,2-dimethylpropyl)-5-methoxy-1-indanone | 54.8 g | BrC1=C2CC(C(C2=CC(=C1OC)C(C)(C)C)=O)CC(C)(C)C | C19H27BrO2
